US07601714B2
N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-(3-piperidin-1-ylbenzyl)pyrimidine-2,4-diamine
(4-{[5-Nitro-2-(3-piperidin-1-yl-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester (176 mg, 0.33 mmol) was dissolved in CH2Cl2 (6 mL). To this solution was added TFA (3 mL) and the reaction was stirred for 1 h. The volatiles were removed and the crude was re-dissolved in 90:9:1 (CH2Cl2:CH3OH:NH4OH), then concentrated again to afford a solid. The resultant solid was purified via flash chromatography (SiO2, 10-75% CH2Cl2-(90:9:1-CH2Cl2:CH3OH:NH4OH)) to afford 131 mg (91%) of the target compound , m/z 440.72 [M+1]+.

reactant | (4-{[5-Nitro-2-(3-piperidin-1-yl-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester | 0.33 mmol, 176 mg | C(C)(C)(C)OC(NC1CCC(CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=CC(=CC=C1)N1CCCCC1)=O | C28H41N7O4
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-(3-piperidin-1-ylbenzyl)pyrimidine-2,4-diamine | 131 mg, 91% | N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=CC(=CC=C1)N1CCCCC1 | C23H33N7O2
